US08017611B2
2-methoxyacetyl chloride (0.023 ml) was added in one portion to a stirred solution of 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (90 mg) and triethylamine (0.069 ml) in THF (40 ml). The resulting mixture was stirred at 23° C. for 2 hours and concentrated to dryness. The product was purified by preparative HPLC using a Waters X-Bridge reverse-phase column (5 microns silica, 30 mm diameter, 150 mm length) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions were evaporated to dryness and the resulting solid was triturated overnight with acetonitrile, filtered and dried under vacuum at 50° C. overnight to afford 1-[4-[4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)pyrazol-1-yl]-1-piperidyl]-2-methoxy-ethanone (80 mg) as a solid. Mass spectrum: M+H+ 434; RT 2.23 min

reactant | 2-methoxyacetyl chloride | 0.023 ml | COCC(=O)Cl | C3H5ClO2
reactant | 3-oxazolo[4,5-b]pyridin-2-yl-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 90 mg | O1C(=NC2=NC=CC=C21)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C19H19N7O
reactant | triethylamine | 0.069 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-[4-[4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)pyrazol-1-yl]-1-piperidyl]-2-methoxy-ethanone | 80 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(COC)=O)C=1OC=2C(=NC=CC2)N1 | C22H23N7O3
